US05608056
To a solution of (2R,4R)-1-allyloxycarbonyl-2-[2-(imidazol-1-yl)ethyl]-4-hydroxypyrrolidine (9.19 g) in dichloromethane (92 ml) were dropwise added triethylamine (5.79 ml) and methanesulfonyl chloride (3.22 ml) under ice cooling with stirring, and the solution was stirred at the same temperature for 1 hour. The reaction mixture was poured into water and extracted with dichloromethane. The organic layer was washed with brine, dried over anhydrous magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel chromatography eluting with a mixture of chloroform and methanol (9:1, V/V) to give (2R,4R)-1-allyloxycarbonyl-2-[2-(imidazol-1-yl)ethyl]-4-(methanesulfonyloxy)pyrrolidine (4.24 g).

reactant | (2R,4R)-1-allyloxycarbonyl-2-[2-(imidazol-1-yl)ethyl]-4-hydroxypyrrolidine | 9.19 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)O)CCN1C=NC=C1 | C13H19N3O3
reactant | triethylamine | 5.79 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.22 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | O | H2O
solvent | dichloromethane | 92 ml | ClCCl | CH2Cl2
product | (2R,4R)-1-allyloxycarbonyl-2-[2-(imidazol-1-yl)ethyl]-4-(methanesulfonyloxy)pyrrolidine | 4.24 g | C(C=C)OC(=O)N1[C@@H](C[C@H](C1)OS(=O)(=O)C)CCN1C=NC=C1 | C14H21N3O5S
